US07820683B2
(2S)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N,N-dimethylpropanamide
A solution of methyl (2S)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (200 mg, 0.42 mmol) in 6N methanolic dimethylamine (10 ml) was stirred for 18 hours. After evaporation of the solvents, the residue was purified by chromatography on silica gel (eluant: 2% methanol in dichloromethane) to give the title compound as a beige solid (115 mg, 56%); NMR Spectrum 1.59 (d, 3H), 2.94 (s, 3H), 3.15 (s, 3H), 5.71 (s, 2H), 5.86 (q, 1H), 7.07 (m, 3H), 7.30 (d, 1H), 7.36 (m, 2H), 7.74 (m, 2H), 7.84 (m, 1H), 8.17 (s, 1H), 8.51 (s, 1H), 8.55 (s, 1H); Mass spectrum 485.

reactant | methyl (2S)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.42 mmol, 200 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@H](C(=O)OC)C)C=CC1 | C26H22FN5O3
reactant | dimethylamine | 6N, 10 ml | CNC | C2H7N
product | (2S)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N,N-dimethylpropanamide | 115 mg, 56% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@H](C(=O)N(C)C)C)C=CC1 | C27H25FN6O2
